### PR TITLE
[Merged by Bors] - feat(Analysis/Normed/Affine/Isometry): interpret `AffineIsometry{Map,Equiv}` as `ContinuousAffine{Map,Equiv}`

### PR DESCRIPTION
**Pull request by peakpoint**
Extracted from #27378 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by peakpoint** [comment]
> I'm not sure what the convention is for lemmas saying that different sequences of conversions to less-bundled maps produce the same results (e.g. converting `AffineIsometry` to `ContinuousAffineMap` to `AffineMap` is the same as converting directly to `AffineMap`, or converting `AffineIsometryEquiv` to `AffineIsometry` to `ContinuousAffineMap` is the same as converting to `ContinuousAffineEquiv` and then to `ContinuousAffineMap` - there would be various other such pairs of conversions to consider as well).

For some reason there aren't these types of commuting lemmas for `LinearIsometryEquiv` (which is what I based these changes on). Maybe it's because the lemmas turn out to be `rfl` anyways but I'm not sure. Do you think they should be added? For `e : LinearIsometryEquiv` there's even 3 ways to get a `Homeomorph` (so 3 lemmas?):
* `e.toHomeomorph`
* `e.toContinuousLinearEquiv.toHomeomorph`
* `e.toIsometryEquiv.toHomeomorph`

File: Mathlib/Analysis/Normed/Affine/Isometry.lean [hunk 1]
```diff
@@ -409,6 +426,38 @@ protected theorem continuousOn {s} : ContinuousOn e s :=
...
+theorem toContinuousAffineEquiv_inj {f g : P ≃ᵃⁱ[𝕜] P₂} :
+    f.toContinuousAffineEquiv = g.toContinuousAffineEquiv ↔ f = g :=
+  toContinuousAffineEquiv_injective.eq_iff
+
+@[simp]
+theorem coe_toContinuousAffineEquiv : ⇑e.toContinuousAffineEquiv = e :=
+  rfl
+
+/-- Reinterpret a `AffineIsometryEquiv` as a `ContinuousAffineEquiv`. -/
+instance : CoeTC (P ≃ᵃⁱ[𝕜] P₂) (P ≃ᴬ[𝕜] P₂) :=
```
Comment (ocfnash) [inline Mathlib/Analysis/Normed/Affine/Isometry.lean]: Why can't this be just:
```suggestion
instance : Coe (P ≃ᵃⁱ[𝕜] P₂) (P ≃ᴬ[𝕜] P₂) :=
```

File: Mathlib/Analysis/Normed/Affine/Isometry.lean [hunk 2]
```diff
@@ -409,6 +426,38 @@ protected theorem continuousOn {s} : ContinuousOn e s :=
...
+  ⟨fun e => e.toContinuousAffineEquiv⟩
+
+instance : CoeTC (P ≃ᵃⁱ[𝕜] P₂) (P →ᴬ[𝕜] P₂) :=
```
Comment (ocfnash) [inline Mathlib/Analysis/Normed/Affine/Isometry.lean]: As above, any reason why this cannot be just:
```suggestion
instance : Coe (P ≃ᵃⁱ[𝕜] P₂) (P →ᴬ[𝕜] P₂) :=
```

File: Mathlib/Analysis/Normed/Affine/Isometry.lean (hunk 1 above)
Comment (peakpoint) [reply Mathlib/Analysis/Normed/Affine/Isometry.lean]: I just copied the corresponding instance from `LinearIsometryEquiv` but yeah it seems like it should be `Coe`

File: Mathlib/Analysis/Normed/Affine/Isometry.lean [hunk 3]
```diff
@@ -193,6 +208,10 @@ theorem id_apply (x : P) : (AffineIsometry.id : P →ᵃⁱ[𝕜] P) x = x :=
 theorem id_toAffineMap : (id.toAffineMap : P →ᵃ[𝕜] P) = AffineMap.id 𝕜 P :=
   rfl
 
+@[simp]
+theorem id_toContinuousAffineMap : id.toContinuousAffineMap = ContinuousAffineMap.id 𝕜 P :=
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Affine/Isometry.lean]:
```suggestion
theorem toContinuousAffineMap_id : id.toContinuousAffineMap = ContinuousAffineMap.id 𝕜 P :=
```

File: Mathlib/Analysis/Normed/Affine/Isometry.lean [hunk 4]
```diff
@@ -257,6 +276,11 @@ theorem subtypeₐᵢ_toAffineMap (s : AffineSubspace 𝕜 P) [Nonempty s] :
     s.subtypeₐᵢ.toAffineMap = s.subtype :=
   rfl
 
+@[simp]
+theorem subtypeₐᵢ_toContinuousAffineMap (s : AffineSubspace 𝕜 P) [Nonempty s] :
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Affine/Isometry.lean]:
```suggestion
theorem toContinuousAffineMap_subtypeₐᵢ (s : AffineSubspace 𝕜 P) [Nonempty s] :
```

File: Mathlib/Analysis/Normed/Affine/Isometry.lean [hunk 5]
```diff
@@ -409,6 +436,38 @@ protected theorem continuousOn {s} : ContinuousOn e s :=
...
+/-- Reinterpret a `AffineIsometryEquiv` as a `ContinuousAffineEquiv`. -/
+instance : Coe (P ≃ᵃⁱ[𝕜] P₂) (P ≃ᴬ[𝕜] P₂) :=
+  ⟨fun e => e.toContinuousAffineEquiv⟩
+
+instance : Coe (P ≃ᵃⁱ[𝕜] P₂) (P →ᴬ[𝕜] P₂) :=
+  ⟨fun e => e.toContinuousAffineEquiv.toContinuousAffineMap⟩
+
+@[simp]
+theorem coe_coe : ⇑(e : P ≃ᴬ[𝕜] P₂) = e :=
+  rfl
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Affine/Isometry.lean]: This should be syntactically equal to `coe_toContinuousAffineEquiv` since coercions get inserted during elaboration. And the former lemma has the better name.
```suggestion
```

File: Mathlib/Analysis/Normed/Affine/Isometry.lean [hunk 6]
```diff
@@ -409,6 +436,38 @@ protected theorem continuousOn {s} : ContinuousOn e s :=
...
+theorem coe_toContinuousAffineEquiv : ⇑e.toContinuousAffineEquiv = e :=
+  rfl
+
+/-- Reinterpret a `AffineIsometryEquiv` as a `ContinuousAffineEquiv`. -/
+instance : Coe (P ≃ᵃⁱ[𝕜] P₂) (P ≃ᴬ[𝕜] P₂) :=
+  ⟨fun e => e.toContinuousAffineEquiv⟩
+
+instance : Coe (P ≃ᵃⁱ[𝕜] P₂) (P →ᴬ[𝕜] P₂) :=
+  ⟨fun e => e.toContinuousAffineEquiv.toContinuousAffineMap⟩
+
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Affine/Isometry.lean]: I don't think you want this coercion. Instead, you should prefer to make `ContinuousAffineEquiv.toContinuousAffineMap` a coercion.
```suggestion
```

File: Mathlib/Analysis/Normed/Affine/Isometry.lean [hunk 7]
```diff
@@ -409,6 +436,38 @@ protected theorem continuousOn {s} : ContinuousOn e s :=
...
+@[simp]
+theorem coe_coe : ⇑(e : P ≃ᴬ[𝕜] P₂) = e :=
+  rfl
+
+@[simp]
+theorem coe_coe' : ⇑(e : P →ᴬ[𝕜] P₂) = e :=
+  rfl
+
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Affine/Isometry.lean]: Likewise, this should be provable already (or will be once you insert the other coercion and add the `simp` lemma there).
```suggestion
```

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge
